US05041673
(±)-(1S,2S,3S)-3-Amino-1-chloro-1,2,3,4-tetrahydro-2-phenanthrenol, hydrochloride
A suspension of α, α-diethoxymethyl-β-tert-butoxycarbonylamino-1-naphthalenepropanol (252 mg), isomer B w as stirred in 37% aqueous hydrochloric acid at 0° C. for 50 minutes. The resulting suspension was then stirred at 100° C. for 3 minutes. The reaction flask was cooled at 0° C. and the precipitate was filtered, washed with water and dried in vacuo. The title compound (156 mg) was obtained as a white solid.

reactant | α, α-diethoxymethyl-β-tert-butoxycarbonylamino-1-naphthalenepropanol | 252 mg | C(C)OCC(C(CC1=CC=CC2=CC=CC=C12)NC(=O)OC(C)(C)C)(O)COCC | C24H35NO5
reactant | hydrochloric acid | Cl | ClH
product | (±)-(1S,2S,3S)-3-Amino-1-chloro-1,2,3,4-tetrahydro-2-phenanthrenol, hydrochloride | 156 mg | Cl.N[C@@H]1[C@@H]([C@H](C=2C=CC3=CC=CC=C3C2C1)Cl)O | InChI=1S/C14H14ClNO.ClH/c15-13-10-6-5-8-3-1-2-4-9(8)11(10)7-12(16)14(13)17;/h1-6,12-14,17H,7,16H2;1H/t12-,13-,14-;/m0./s1
